US06593330B2
Step 1: 2-(1,3-Benzodioxol-5-ylmethoxy)-6-chloropyrazine
To a solution of 2,6-dichloropyrazine (298 mg, 2.00 mmol) and piperonyl alcohol (335 mg, 2.20 mmol) in dioxane (5 mL) was added NaH (55% in mineral oil, 96 mg, 2.2 mmol) at room temperature. The reaction mixture was stirred overnight. Water (0.5 mL) was added and the mixture was stirred for 15 min. Drying, Na2CO3, filtration and concentration in vacuo furnished an oil (0.54 g) that was used directly in the next step. HRMS m/z calcd for C12H9ClN2O3 (M)+ 264.0302, found 264.0303.

reactant | 2,6-dichloropyrazine | 2.00 mmol, 298 mg | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | piperonyl alcohol | 2.20 mmol, 335 mg | C(C1=CC=2OCOC2C=C1)O | C8H8O3
reactant | NaH | 2.2 mmol, 96 mg | [H-].[Na+]
reactant | Water | 0.5 mL | O | H2O
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-(1,3-Benzodioxol-5-ylmethoxy)-6-chloropyrazine | 0.54 g | O1COC2=C1C=CC(=C2)COC2=NC(=CN=C2)Cl | C12H9ClN2O3
